US04407930
D. 6-Nitro-4-hydroxy-2-methylbenzoxazole
To a stirred solution of the 2-amino-5-nitroresorcinol (2.9 g, 0.017 mole) in toluene (50 ml) and THF (5 ml) was added triethyl orthoacetate (4.1 g, 0.0255 mole). This mixture was heated to reflux for one hour. Upon cooling, the product crystallized out of solution and was collected and dried to yield a tan solid (1.3 g, 39.4 percent). TLC showed the product to be pure.

reactant | 2-amino-5-nitroresorcinol | 0.017 mole, 2.9 g | NC1=C(O)C=C(C=C1O)[N+](=O)[O-] | C6H6N2O4
reactant | triethyl orthoacetate | 0.0255 mole, 4.1 g | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-Nitro-4-hydroxy-2-methylbenzoxazole | 1.3 g, 39.4 percent | [N+](=O)([O-])C1=CC2=C(N=C(O2)C)C(=C1)O | C8H6N2O4
